US08198453B2
A 2 L, round bottom flask was charged with toluene (400 mL), a magnetic stir bar, (R,E)-N-(2-(Tetrahydro-2H-pyran-3-yl)ethylidene)methanamine (11.3 g, 80.1 mmol) and 3-{(E)-[((1R,2R)-2-{[({(1S)-1-[(dimethylamino)carbonyl]-2,2-dimethylpropyl}amino)carbonothioyl]amino}cyclohexyl)imino]methyl}-5-(1,1-dimethylethyl)-4-hydroxyphenyl 2,2-dimethylpropanoate (J. Am. Chem. Soc., 2002, 124, 10012-10014) (0.9 g, 1.6 mmol). The mixture was cooled to −78° C. and trimethylsilanecarbonitrile (21.4 mL, 160.2 mmol) was added dropwise over 15 min using an addition funnel. Isopropyl alcohol (12.3 mL, 160.2 mmol) was then added dropwise over 10 min. The reaction stirred at −78° C. for 3 h and then was warmed to room temperature and stirred for 1 h. Bis(1,1-dimethylethyl) dicarbonate (35.0 g, 160.2 mmol) was then added and the resulting mixture was stirred at room temperature for 1 h. The reaction was quenched by the addition of saturated aqueous NaHCO3 (400 mL) and EtOAc (300 mL). The layers were separated and the aqueous layer was washed with EtOAc (100 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated under reduced pressure to give the crude product. The crude material was divided into two parts and each was purified by flash chromatography (ISCO; 120 g column; 0% to 10% EtOAc/Hexane over 30 min, then 10% EtOAc/Hexane 47 min, then 10% to 20% EtOAc/Hexane over 2 min, then 20% EtOAc/Hexane for 11 min). The two purified batches were combined to provide tert-butyl (S)-1-cyano-2-((R)-tetrahydro-2H-pyran-3-yl)ethyl(methyl)carbamate (18.9 g, 70 mmol, 86%) as an orange oil. 1H NMR (400 MHz, CDCl3) δ 5.00 (brs, 1H), 3.83-3.90 (m, 2H), 3.42-3.48 (m, 1H), 3.19 (dd, J=11.3, 8.6, 1H), 2.92 (s, 3H), 1.85-1.95 (m, 1H), 1.60-1.82 (m, 5H), 1.50 (s, 9H), 1.28-1.33 (m, 1H).

reactant | (R,E)-N-(2-(Tetrahydro-2H-pyran-3-yl)ethylidene)methanamine | 80.1 mmol, 11.3 g | O1C[C@H](CCC1)C\C=N\C | C8H15NO
reactant | trimethylsilanecarbonitrile | 160.2 mmol, 21.4 mL | C[Si](C#N)(C)C | C4H9NSi
reactant | Isopropyl alcohol | 160.2 mmol, 12.3 mL | C(C)(C)O | C3H8O
reactant | Bis(1,1-dimethylethyl) dicarbonate | 160.2 mmol, 35.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 3-{(E)-[((1R,2R)-2-{[({(1S)-1-[(dimethylamino)carbonyl]-2,2-dimethylpropyl}amino)carbonothioyl]amino}cyclohexyl)imino]methyl}-5-(1,1-dimethylethyl)-4-hydroxyphenyl 2,2-dimethylpropanoate | 1.6 mmol, 0.9 g | CC(C(=O)OC1=CC(=C(C(=C1)C(C)(C)C)O)/C=N/[C@H]1[C@@H](CCCC1)NC(=S)N[C@@H](C(C)(C)C)C(=O)N(C)C)(C)C | C31H50N4O4S
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (S)-1-cyano-2-((R)-tetrahydro-2H-pyran-3-yl)ethyl(methyl)carbamate | 70 mmol, 18.9 g, 86% | C(#N)[C@H](C[C@@H]1COCCC1)N(C(OC(C)(C)C)=O)C | C14H24N2O3
